US07662811B2
To a suspension of N-(2-bromophenethyl)-2,2,2-trifluoroacetamide (8.88 g, 30 mmol) and paraformaldehyde (13.5 g, 0.45 mol) in 45 mL of glacial acetic acid at room temperature was slowly added 30 mL of sulfuric acid (96.6%). After stirring at room temperature overnight, the reaction mixture was quenched with ice water and extracted with EtOAc, washed with brine and Sat. NaHCO3 and dried over Na2SO4. After concentration, flash chomatography (SiO2, hexane/DCM=1:1) gave of 1-(5-bromo-3,4-dihydroisoquinolin-2(1H)-yl)-2,2,2-trifluoroethanone as a white solid.

reactant | N-(2-bromophenethyl)-2,2,2-trifluoroacetamide | 30 mmol, 8.88 g | BrC1=C(CCNC(C(F)(F)F)=O)C=CC=C1 | C10H9BrF3NO
reactant | paraformaldehyde | 0.45 mol, 13.5 g | C=O | CH2O
reactant | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 45 mL | C(C)(=O)O | C2H4O2
product | 1-(5-bromo-3,4-dihydroisoquinolin-2(1H)-yl)-2,2,2-trifluoroethanone | BrC1=C2CCN(CC2=CC=C1)C(C(F)(F)F)=O | C11H9BrF3NO
